US04192888
6.35 g. of 2-chloroaniline (0.05 mole) in acetone (100 ml.) and concentrated hydrobromic acid (16 ml.) was stirred at -5° C. and treated with a solution of 4.2 g. of sodium nitrite (0.06 mole) in water (10 ml.). Methyl acrylate (0.5 mole) (43 g.) and cuprous bromide (100 mg.) were then added at 0° C. The reaction temperature was kept below 15° C. until nitrogen evolution ceased and then stirred at 25° C. for thirty minutes. The reaction mixture was poured into water and extracted with benzene which was dried over sodium sulfate and evaporated to give methyl 2-bromo-3-(2-chlorophenyl)propionate.

reactant | 2-chloroaniline | 0.05 mole | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | sodium nitrite | 0.06 mole | N(=O)[O-].[Na+]
reactant | Methyl acrylate | 0.5 mole, 43 g | C(C=C)(=O)OC | C4H6O2
reactant | hydrobromic acid | 16 ml | Br | BrH
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
product | methyl 2-bromo-3-(2-chlorophenyl)propionate | BrC(C(=O)OC)CC1=C(C=CC=C1)Cl | C10H10BrClO2
